### PR TITLE
refactor: Add invariants theorem for Higgs potential

### PR DESCRIPTION
**Pull request by jstoobysmith**
Adding the theorem which says that the Higgs potential is the most general potential up to order 4 which  is invariant under the SM action.

### CODE REVIEW

**Comment by morrison-daniel** [comment]
Can't give a full review yet, but I think some of this should be separated into other lemmas. For example, define `V'` and `p'` in general and then pretty much each of your have statements can be its own lemma.

**Comment by jstoobysmith** [comment]
@morrison-daniel I did something similar to this. I have defined a more general notion of an `EffectivePotential` and then define properties of that, the proof is slightly different from what I had before, but hopefully it is now slightly more generalizable.

File: Physlib/Particles/StandardModel/HiggsBoson/EffectivePotential.lean [hunk 1]
```diff
@@ -0,0 +1,249 @@
...
+
+lemma termOfMassDim_isInvariant {V : EffectivePotential} {n : ℕ} (h : HasMaxMassDimLE V n)
+    (m : ℕ) (hV : IsInvariant V) : IsInvariant (termOfMassDim V h m) := by
+  intro g φ
+  have hV (t : ℝ) := hV g (t • φ)
+  have h1 (t : ℝ) : ∑  m ∈ Finset.range (n + 1), t ^ m * (termOfMassDim V h m (g • φ) -
+      termOfMassDim V h m φ) = 0 := by
+    simp [mul_sub, ← apply_smul_eq_sum_termOfMassDim]
+    rw [smul_comm, hV, sub_eq_zero]
+  -- Proof produced using Claude from here.
```
Comment (morrison-daniel) [inline Physlib/Particles/StandardModel/HiggsBoson/EffectivePotential.lean]: I'd avoid having comments like this. If you want to come back to clean up later maybe change to a TODO

**Review by morrison-daniel — APPROVED** [review]
Looks good!

File: Physlib/Particles/StandardModel/HiggsBoson/EffectivePotential.lean (hunk 1 above)
Comment (jstoobysmith) [reply Physlib/Particles/StandardModel/HiggsBoson/EffectivePotential.lean]: Remove it now
